US06780567B2
To 56.1 g of potassium t-butoxide, 150 ml of ethylene glycol was dropwise added in a stream of nitrogen to dissolve potassium t-butoxide completely. To the solution, 45.3 g of 1-bromobenzocyclobutene (synthesized according to a method of DeCamp et al., J. Org. Chem., 1981, 46, 3918) was dropwise added. After the addition was completed, the mixture was heated to 80° C., and stirred for 8 hours. The mixture was cooled to room temperature, and poured into ice-cold water. After adjusting pH to 6 with hydrochloric acid, an organic phase was extracted with ethyl acetate. After the solvent was distilled away, the residue was purified in a silica gel chromatography to obtain 20.6 g of 1-(2′-hydroxyethoxy)-benzocyclobutene.

reactant | potassium t-butoxide | 56.1 g | CC(C)([O-])C.[K+]
reactant | 1-bromobenzocyclobutene | 45.3 g | BrC1CC=2C1=CC=CC2 | C8H7Br
reactant | hydrochloric acid | Cl | ClH
reactant | ethylene glycol | 150 ml | C(CO)O | C2H6O2
product | 1-(2′-hydroxyethoxy)-benzocyclobutene | 20.6 g | OCCOC1CC=2C1=CC=CC2 | C10H12O2
